US04569690
2-Chloroethyl 2-chloro-N-hydroxybenzenecarboximidothioate
2-Chlorobenzaldoxime (46.7 g, 0.3 mol) in chloroform (350 ml) was cooled and stirred in an ice/salt bath. Chlorine gas was bubbled into the reaction until an excess was present. Excess chlorine and solvent were removed and the remaining 2-chloro-N-hydroxybenzenecarboximidoyl chloride dissolved in ether (250 ml). Solutions of triethylamine (30.3 g, 0.3 mol) in ether (50 ml) and 2-chloroethanethiol (29 g, 0.3 mol) in ether (50 ml) were added simultaneously with stirring and cooling. After the addition, the reaction was allowed to warm to room temperature and left overnight. Water was added, and the ether layer was washed with additional water, then dried with anhydrous magnesium sulphate. Evaporation left a white solid, 2-chloroethyl 2-chloro-N-hydroxybenzenecarboximidothioate, m.p. 115°-117° C., (Found: C, 43.29; H, 3.58; N, 5.59. C9H9Cl2NOS requires C, 43.21; H, 3.62; N, 5.60).

reactant | 2-Chlorobenzaldoxime | 0.3 mol, 46.7 g | ClC1=C(C=NO)C=CC=C1 | C7H6ClNO
reactant | triethylamine | 0.3 mol, 30.3 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethanethiol | 0.3 mol, 29 g | ClCCS | C2H5ClS
reactant | Water | O | H2O
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-Chloroethyl 2-chloro-N-hydroxybenzenecarboximidothioate | ClC1=C(C=CC=C1)C(=NO)SCCCl | C9H9Cl2NOS
